US05977178
At 0° C., trifluoroacetic acid (3 mL) was added to a solution of 3-((2R)-2-(N-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate (885 mg, 1.50 mmol) in dichloromethane (3 mL). The reaction mixture was stirred for 5 min. The solvents were removed in vacuo at 20° C. The residue was dissolved in dichloromethane (40 mL). The procedure was repeated twice. The crude product was purified by flash chromatography on silica (45 g) with dichloromethane/methanol/25% solution of ammonia in water (100:10:1) to give 497 mg of 3-((2R)-2-(N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate.

reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-((2R)-2-(N-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate | 1.50 mmol, 885 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(=O)OC(C)(C)C)=O)=O | C34H43N3O6
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-((2R)-2-(N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate | 497 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)=O | C29H35N3O4
